**PMOS input stage CS output stage amplifier

vin1 in1 0 1

**amplifier
**first stage

*M1 y in1 tail 0 
RdM1	node1M1	y	240.0000m
RsM1	node2M1	tail	240.0000m
CbdM1	node1M1	0	6.9101f
CbsM1	node2M1	0	6.9101f
RbdM1	node1M1	0	6.94771863117871e+16
RbsM1	node2M1	0	9.85283682376213e+15
GmM1	node1M1	node2M1	in1	tail	276.1016u
RdsM1	node1M1	node2M1	237716.024437207
GmbM1	node1M1	node2M1	0	tail	88.4669u
CgsM1	node2M1	in1	20.2926f
CgdM1	node1M1	in1	1.9657f


*M2 x 0 tail 0 
RdM2	node1M2	x	240.0000m
RsM2	node2M2	tail	240.0000m
CbdM2	node1M2	0	6.9101f
CbsM2	node2M2	0	6.9101f
RbdM2	node1M2	0	6.94771863117871e+16
RbsM2	node2M2	0	9.85283682376213e+15
GmM2	node1M2	node2M2	0	tail	276.1016u
RdsM2	node1M2	node2M2	237716.024437207
GmbM2	node1M2	node2M2	0	tail	88.4669u
CgsM2	node2M2	0	20.2926f
CgdM2	node1M2	0	1.9657f


*M3 y X 0 0 
RdM3	node1M3	y	272.0000m
RsM3	node2M3	0	272.0000m
CbdM3	node1M3	0	4.8543f
CbsM3	node2M3	0	4.8543f
RbdM3	node1M3	0	981561833970189
RbsM3	node2M3	0	0.1f
GmM3	node1M3	node2M3	X	0	624.7719u
RdsM3	node1M3	node2M3	187090.739008419
GmbM3	node1M3	node2M3	0	0	173.3665u
CgsM3	node2M3	X	15.1292f
CgdM3	node1M3	X	1.8318f


*M4 x x 0 0 
RdM4	node1M4	x	272.0000m
RsM4	node2M4	0	272.0000m
CbdM4	node1M4	0	4.8543f
CbsM4	node2M4	0	4.8543f
RbdM4	node1M4	0	981561833970189
RbsM4	node2M4	0	0.1f
GmM4	node1M4	node2M4	x	0	624.7719u
RdsM4	node1M4	node2M4	187090.739008419
GmbM4	node1M4	node2M4	0	0	173.3665u
CgsM4	node2M4	x	15.1292f
CgdM4	node1M4	x	1.8318f


*M5 tail Iin 0 0 
RdM5	node1M5	tail	30.0000m
RsM5	node2M5	0	30.0000m
CbdM5	node1M5	0	53.8913f
CbsM5	node2M5	0	53.8913f
RbdM5	node1M5	0	1.29967868671582e+15
RbsM5	node2M5	0	0.1f
GmM5	node1M5	node2M5	Iin	0	898.4370u
RdsM5	node1M5	node2M5	2738.21813193283
GmbM5	node1M5	node2M5	0	0	303.8118u
CgsM5	node2M5	Iin	154.1734f
CgdM5	node1M5	Iin	23.9742f


**second stage

*M6 out y 0 0 
RdM6	node1M6	out	45.3333m
RsM6	node2M6	0	45.3333m
CbdM6	node1M6	0	28.3097f
CbsM6	node2M6	0	28.3097f
RbdM6	node1M6	0	18667559.7511922
RbsM6	node2M6	0	0.1f
GmM6	node1M6	node2M6	y	0	3.9580m
RdsM6	node1M6	node2M6	52329.992935451
GmbM6	node1M6	node2M6	0	0	1.0917m
CgsM6	node2M6	y	90.9642f
CgdM6	node1M6	y	10.9759f


*M7 out Iin 0 0 
RdM7	node1M7	out	10.0000m
RsM7	node2M7	0	10.0000m
CbdM7	node1M7	0	161.2769f
CbsM7	node2M7	0	161.2769f
RbdM7	node1M7	0	539306421956333
RbsM7	node2M7	0	0.1f
GmM7	node1M7	node2M7	Iin	0	3.1488m
RdsM7	node1M7	node2M7	1707.47532698153
GmbM7	node1M7	node2M7	0	0	1.0539m
CgsM7	node2M7	Iin	464.8057f
CgdM7	node1M7	Iin	59.1498f


**bias

*M8 Iin Iin 0 0 
RdM8	node1M8	Iin	480.0000m
RsM8	node2M8	0	480.0000m
CbdM8	node1M8	0	3.5543f
CbsM8	node2M8	0	3.5543f
RbdM8	node1M8	0	7.99412793837917e+16
RbsM8	node2M8	0	0.1f
GmM8	node1M8	node2M8	Iin	0	78.2244u
RdsM8	node1M8	node2M8	1116122.37656831
GmbM8	node1M8	node2M8	0	0	26.1677u
CgsM8	node2M8	Iin	9.6144f
CgdM8	node1M8	Iin	981.9411a


**compensation
Rz y z 1.75k
Cc z out 350f

**Load
Cl out 0 2p

.ac out 0 dec 10 10 10G

.end
