*cascode configuration

vin1 in1 0 1

*amplifier
*stage one

*M1 y in1 tail vdd 
RdM1	node1M1	y	72.0000m
RsM1	node2M1	tail	72.0000m
CbdM1	node1M1	0	22.5705f
CbsM1	node2M1	0	22.5705f
RbdM1	node1M1	0	2.190094072245e+16
RbsM1	node2M1	0	6.03160929126349e+15
GmM1	node1M1	node2M1	in1	tail	570.5845u
RdsM1	node1M1	node2M1	162961.997262238
GmbM1	node1M1	node2M1	0	tail	168.6158u
CgsM1	node2M1	in1	65.0601f
CgdM1	node1M1	in1	6.5523f

*M2 x in2 tail vdd 
RdM2	node1M2	x	72.0000m
RsM2	node2M2	tail	72.0000m
CbdM2	node1M2	0	22.5705f
CbsM2	node2M2	0	22.5705f
RbdM2	node1M2	0	2.190094072245e+16
RbsM2	node2M2	0	6.03160929126349e+15
GmM2	node1M2	node2M2	0	tail	570.5845u
RdsM2	node1M2	node2M2	162961.997262238
GmbM2	node1M2	node2M2	0	tail	168.6158u
CgsM2	node2M2	0	65.0601f
CgdM2	node1M2	0	6.5523f

*M3 y x 0 0 
RdM3	node1M3	y	272.0000m
RsM3	node2M3	0	272.0000m
CbdM3	node1M3	0	4.8543f
CbsM3	node2M3	0	4.8543f
RbdM3	node1M3	0	676315331947891
RbsM3	node2M3	0	0.1f
GmM3	node1M3	node2M3	x	0	669.6469u
RdsM3	node1M3	node2M3	168750.73828448
GmbM3	node1M3	node2M3	0	0	185.7349u
CgsM3	node2M3	x	15.2711f
CgdM3	node1M3	x	1.8320f

*M4 x x 0 0 
RdM4	node1M4	x	272.0000m
RsM4	node2M4	0	272.0000m
CbdM4	node1M4	0	4.8543f
CbsM4	node2M4	0	4.8543f
RbdM4	node1M4	0	676315331947891
RbsM4	node2M4	0	0.1f
GmM4	node1M4	node2M4	x	0	669.6469u
RdsM4	node1M4	node2M4	168750.73828448
GmbM4	node1M4	node2M4	0	0	185.7349u
CgsM4	node2M4	x	15.2711f
CgdM4	node1M4	x	1.8320f

*M5 tail Iin vdd vdd 
RdM5	node1M5	tail	30.0000m
RsM5	node2M5	0	30.0000m
CbdM5	node1M5	0	53.8913f
CbsM5	node2M5	0	53.8913f
RbdM5	node1M5	0	2.53647269303357e+15
RbsM5	node2M5	0	0.1f
GmM5	node1M5	node2M5	0	0	1.2150m
RdsM5	node1M5	node2M5	24161.6511105903
GmbM5	node1M5	node2M5	0	0	403.0586u
CgsM5	node2M5	0	155.0109f
CgdM5	node1M5	0	16.4861f

*stage two

*M6 out y 0 0 
RdM6	node1M6	out	45.3333m
RsM6	node2M6	0	45.3333m
CbdM6	node1M6	0	28.3097f
CbsM6	node2M6	0	28.3097f
RbdM6	node1M6	0	987778451.937245
RbsM6	node2M6	0	0.1f
GmM6	node1M6	node2M6	y	0	4.1734m
RdsM6	node1M6	node2M6	42227.7681357707
GmbM6	node1M6	node2M6	0	0	1.1513m
CgsM6	node2M6	y	91.8272f
CgdM6	node1M6	y	10.9795f

*M7 out Iin vdd vdd 
RdM7	node1M7	out	10.0000m
RsM7	node2M7	0	10.0000m
CbdM7	node1M7	0	161.2769f
CbsM7	node2M7	0	161.2769f
RbdM7	node1M7	0	1.81619722492944e+15
RbsM7	node2M7	0	0.1f
GmM7	node1M7	node2M7	0	0	3.8704m
RdsM7	node1M7	node2M7	21991.7486958893
GmbM7	node1M7	node2M7	0	0	1.2825m
CgsM7	node2M7	0	464.3677f
CgdM7	node1M7	0	47.3003f

*compensation
Rz y z 1.75k
Cc z out 350f

*load
CL out 0 2p

.ac out 0 dec 10 10 10G

.end
